Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
AF with RVR
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is an ___ y/o man with history of CAD, HTN/HLD, who 
presented today for scheduled outpatient colonoscopy and 
complained of chest discomfort and was found to have atrial 
fibrillation with rapid ventricular response. The procedure was 
cancelled and the patient was referred to the ED for further 
evaluation.  
 
In the ED, initial vital signs were: 98.7 121 107/69 18 97% RA  
- Labs were notable for: BMP, CBC within normal limits; troponin 
<0.01x2 with MB 3x2  
- Studies performed include:  
-- CXR: No acute cardiopulmonary process.  
-- EKG: Atrial fibrillation at 127 bpm, LAD, NI, STD in V4-6, 
LVH  
-- Repeat EKG: NSR at 64 bpm, biphasic T waves in V3, TWI in 
V4-V6, I, aVL (unchanged from prior)  
- Patient was given:  

___ 09:45 IV Metoprolol Tartrate 5 mg  
___ 09:58 IVF NS  
___ 09:58 IV Metoprolol Tartrate 5 mg  
___ 10:00 PO Metoprolol Tartrate 50 mg  
___ 10:17 PO Aspirin 324 mg  
___ 10:27 IV Metoprolol Tartrate 5 mg  
___ 12:02 IVF NS 1 mL  
___ 12:02 SC Enoxaparin Sodium 70 mg  

After conversion to NSR chest pain resolved. Per interpreter 
present who also interpreted in the ED, he was at times confused 
and attempted to walk around the ED on his own.  

Upon arrival to the floor, initial vitals were 98.0 185/66 62 18 
98 RA. Repeat BP 199/77, followed by 168/74. He initially 
reported headache which he stated was chronic in nature. He 
denied any chest pain, shortness of breath, or palpations. 
Headache resolved after several minutes.  
 

 
Past Medical History:
- CAD  
- HTN/HLD  
- Retroperitoneal lymphadenopathy of unclear etiology, being  
followed by heme-onc  
- GERD  
- Urinary incontinence  
- BPH s/p TURP  
- Cataracts  

 
Social History:
___
Family History:
relatively unknown, estranged from parents since the age of ___  
no history of diabetes, or of premature coronary disease, per 
Dr. ___ ___ note.

 
Physical Exam:
ADMISSION EXAM:

Vitals: 98.0 185/66 62 18 98 RA (repeat 168/74)  
GENERAL: NAD, AAO X 1 (not oriented to year or season or to 
place)  
HEENT: Normocephalic, atraumatic. EOMI  
NECK: Supple  
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops. 
No VD.  
LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields. No wheezes, rhonchi or rales. 
Resonant to percussion.  
ABDOMEN: Normal bowels sounds, non distended, non-tender  
EXTREMITIES: No clubbing, cyanosis, or edema  
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy  
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Grossly 
normal sensation.  

DISCHARGE EXAM:

- VITALS:   PO 166 / 71 61 20 97 RA 
- I/Os: na
- WEIGHT:  na
- WEIGHT ON ADMISSION:  na

- TELEMETRY:  sinus
 
GENERAL: WDWN M in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP non elevated  
CARDIAC: RRR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.  
LUNGS: CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: No c/c/e 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  

 
Pertinent Results:
ADMISSION LABS:

___ 09:35AM   WBC-6.3 RBC-4.48* HGB-14.5 HCT-41.9 MCV-94 
MCH-32.4* MCHC-34.6 RDW-11.9 RDWSD-40.7
___ 09:35AM   NEUTS-60.5 ___ MONOS-9.3 EOS-1.7 
BASOS-0.5 IM ___ AbsNeut-3.82 AbsLymp-1.75 AbsMono-0.59 
AbsEos-0.11 AbsBaso-0.03
___ 09:35AM   CALCIUM-9.4 PHOSPHATE-4.2 MAGNESIUM-2.8*
___ 09:35AM   CK-MB-3
___ 09:35AM   cTropnT-<0.01
___ 09:35AM   CK(CPK)-142
___ 09:35AM   GLUCOSE-125* UREA N-19 CREAT-1.2 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-99 TOTAL CO2-20* ANION GAP-23*
___ 06:24PM   TSH-0.88

TTE ___
The left atrial volume index is moderately increased. No atrial 
septal defect is seen by 2D or color Doppler. There is mild 
symmetric left ventricular hypertrophy with normal cavity size. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size and regional/global systolic function (LVEF>55%). 
The estimated cardiac index is normal (>=2.5L/min/m2). There is 
no ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The right ventricular free wall 
thickness is normal. The ascending aorta is mildly dilated. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are mildly thickened. 
There is no mitral valve prolapse. Trivial mitral regurgitation 
is seen. There is borderline pulmonary artery systolic 
hypertension. There is a trivial/physiologic pericardial 
effusion. 

 IMPRESSION: Hypertensive heart disease. Dilated left atrium. No 
significant valve disease.

CXR ___
 
No acute cardiopulmonary process. 

DISCHARGE LABS:

___ 05:46AM BLOOD WBC-7.1 RBC-4.46* Hgb-14.6 Hct-41.2 
MCV-92 MCH-32.7* MCHC-35.4 RDW-11.6 RDWSD-39.6 Plt ___
___ 05:46AM BLOOD Plt ___
___ 05:46AM BLOOD Glucose-137* UreaN-11 Creat-0.9 Na-138 
K-4.1 Cl-101 HCO3-25 AnGap-16
___ 05:46AM BLOOD Calcium-9.3 Phos-3.6 Mg-2.2
 
Brief Hospital Course:
Mr. ___ is an ___ y/o man with history of CAD, HTN/HLD, who 
presented today for scheduled outpatient colonoscopy and 
complained of chest discomfort and was found to have atrial 
fibrillation with rapid ventricular response. 

# Atrial fibrillation: First known episode, now in normal sinus 
rhythm. CHADSVASC 3 however does not seem good candidate for 
anticoagulation given his dementia, fall risk, and poor social 
supports. No clear triggers. Not clinically in heart failure, no 
evidence of infection. No events on telemetry and remained in 
sinus rhythm throughout admission. His TSH was normal. TTE 
showed no significant valvular disease. Stopped his atenolol and 
started metoprolol 50 mg bid. Anticoagulation can be considered 
per his PCP.

# Chest pain 
# CAD: 
 Troponins <0.01 x2 with flat MB. STD V4-V6 concerning for 
underlying CAD. Likely demand in the setting of atrial 
fibrillation with RVR. ST depressions now resolved. Continue 
ASA, atorvastatin, metoprolol. Consider outpatient stress 

#Dispo: per review of outpt records, pt does in fact only live 
with his wife as he reports and children are not involved in his 
care. Wife (___) does not speak any ___ and apparently 
has her own chronic illnesses. Unclear how patient has been 
taking care of himself at home or how he get to appointments or 
takes his medicines. ___ consulted and felt no ___ needs. Pt's son 
arrived at hospital and felt pt was safe at home. They were set 
up with ___ services. ___ clinic was contacted about this and 
was in agreement with ___.

# HTN: Continue amlodipine 5mg daily. Discontinue home atenolol, 
replace with metoprolol 

# HLD: Continue home atorvastatin 

# GERD: Continue home omeprazole 

# Urinary incontinence: Continue home tamsulosin 

TRANSITIONAL ISSUES:
-Suspect patient is not taking medications; when given 
amlodipine 5 mg and metoprolol 50 mg BID, his blood pressure and 
heart rate were controlled. 
-Consider outpatient stress test
-Reschedule patient's colonoscopy for his symptoms of bloating
-Anticoagulation for AF with CHADSVASC 3 per PCP, deferred at 
this time.
-Stopped atenolol. Started metop 50 mg bid
- Full code 
- Please obtain health care proxy for this patient 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 100 mg PO DAILY 
2. amLODIPine 5 mg PO DAILY 
3. Vitamin D ___ UNIT PO DAILY 
4. Atorvastatin 20 mg PO QPM 
5. Omeprazole 40 mg PO DAILY 
6. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Metoprolol Tartrate 50 mg PO BID 
RX *metoprolol tartrate 50 mg 1 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*0 
3.  amLODIPine 5 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  Omeprazole 40 mg PO DAILY  
6.  Tamsulosin 0.4 mg PO QHS  
7.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Afib with RVR

Secondary diagnosis:
HTN
Dementia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care of you at ___ 
___.

WHY DID I HAVE TO STAY IN THE HOSPITAL?
You had to stay in the hospital because of an abnormal heart 
rhythm. 

WHAT WAS DONE FOR ME?
You were given medicines to control your heart rate.
Your blood pressure medicine was changed from atenolol to 
metoprolol for this.

WHAT SHOULD I DO WHEN I GO HOME?
Please take your medicines as prescribed.
Please follow up with your regular doctor, ___.

Sincerely,
Your Medical Team
 
Followup Instructions:
___